US07288537B2
A solution of 5-Cyclobutyl-2-methyl-2H-pyrazol-3-ylamine (0.156 g, 1.03 mmol) in dimethylformamide (3 ml) cooled to 0° C., is treated with phenylchloroformate (0.13 ml, 1.03 mmol) dropwise and left to stir at 0° C. for 1 hour. The reaction mixture is partitioned between ethylacetate and 1.0 M hydrochloric acid solution, and the organic phase washed with water, dried over magnesium sulphate and evaporated to yield (5-Cyclobutyl-2-methyl-2H-pyrazol-3-yl)-carbamic acid phenyl ester. [M+H] 272.22

reactant | 5-Cyclobutyl-2-methyl-2H-pyrazol-3-ylamine | 1.03 mmol, 0.156 g | C1(CCC1)C=1C=C(N(N1)C)N | C8H13N3
reactant | phenylchloroformate | 1.03 mmol, 0.13 ml | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (5-Cyclobutyl-2-methyl-2H-pyrazol-3-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1N(N=C(C1)C1CCC1)C)=O | C15H17N3O2
